US09301951B2
Into a 500-mL round bottom flask, was placed a solution of 2-bromoisonicotinic acid (10 g, 49.75 mmol, 1.00 equiv) in methanol (200 mL). This was followed by dropwise addition of thionyl chloride (24 g, 203.39 mmol, 4.09 equiv) with stirring at 0° C.-5° C. The resulting solution was stirred for 5 h at 70° C. in an oil bath. The resulting mixture was concentrated under vacuum, to yield 10 g (80%) of methyl 2-bromoisonicotinate hydrochloride as a white solid.

reactant | 2-bromoisonicotinic acid | 49.75 mmol, 10 g, 1.00 equiv | BrC=1C=C(C(=O)O)C=CN1 | C6H4BrNO2
reactant | thionyl chloride | 203.39 mmol, 24 g, 4.09 equiv | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 200 mL | CO | CH4O
product | methyl 2-bromoisonicotinate hydrochloride | 10 g, 80% | Cl.BrC=1C=C(C(=O)OC)C=CN1 | InChI=1S/C7H6BrNO2.ClH/c1-11-7(10)5-2-3-9-6(8)4-5;/h2-4H,1H3;1H
